US05521192
A stirred solution of 5.1 grams (0.044 mole) of benzyl cyanide and 8.7 grams (0.065 mole) of N,N-dimethylformamide dimethyl acetal in 150 mL of methanol was heated at reflux for about 20 hours. After this time gas chromatographic analysis of the reaction mixture indicated that the reaction was not complete. An additional 3.0 mL of the intermediate acetal (total--0.088 mole) was added, and the heating at reflux was continued an additional 24 hours. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was triturated with 25% methylene chloride in petroleum ether, yielding 5.9 grams of 1-cyano-1-phenyl-2-(N,N-dimethylamino)ethene. The NMR spectrum was consistent with the proposed structure.

reactant | benzyl cyanide | 0.044 mole, 5.1 grams | C(C1=CC=CC=C1)C#N | C8H7N
reactant | N,N-dimethylformamide dimethyl acetal | 0.065 mole, 8.7 grams | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 150 mL | CO | CH4O
product | 1-cyano-1-phenyl-2-(N,N-dimethylamino)ethene | 5.9 grams | C(#N)C(=CN(C)C)C1=CC=CC=C1 | C11H12N2
